US04845097
Synthesis of 5-chloro-4-{2-[4-(2-morpholinoethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine (Compound No. 198)
3.0 g of 4-{2-[4-(2-bromoethyl)-2-methylphenoxy]ethylamino}-5-chloro-6-methylpyrimidine and 1.4 g of morpholine were dissolved in 40 ml of ethanol, and the mixture was charged into an autoclave. Then, the mixture was allowed to react at 120° to 130° C. for 8 hours. At the end of this time, the ethanol was removed by distillation and water was added to the residue. The oily substance which separated was then extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate, after which the ethyl acetate was removed by distillation under reduced pressure to obtain an oily substance. The substance obtained was subjected to column chromatography (Wakogel C-200, eluted with ethanol), to obtain 2.6 g of the title compound as a pale yellow oily liquid, n25.7 =1.5643.

reactant | 4-{2-[4-(2-bromoethyl)-2-methylphenoxy]ethylamino}-5-chloro-6-methylpyrimidine | 3.0 g | BrCCC1=CC(=C(OCCNC2=NC=NC(=C2Cl)C)C=C1)C | C16H19BrClN3O
reactant | morpholine | 1.4 g | N1CCOCC1 | C4H9NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-chloro-4-{2-[4-(2-morpholinoethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine | 2.6 g | ClC=1C(=NC=NC1C)NCCOC1=C(C=C(C=C1)CCN1CCOCC1)C | C20H27ClN4O2
